US07777038B2
A 2N dichloromethane solution (52 ml) of boron tribromide was added dropwise at −20° C. to a dichloromethane solution (100 ml) of 5-methoxy-8-methyl-3,4-dihydro-1H-quinolin-2-one (10.0 g). After stirring for 1 hour, the reaction mixture was poured into ice water and separated into layers. The organic layer was washed twice with water, washed with a saturated sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was recrystallized from an ethyl acetate-diethyl ether mixed solvent to thereby obtain 9.4 g (yield: quantitative) of 5-hydroxy-8-methyl-3,4-dihydro-1H-quinolin-2-one as a white powder.

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 5-methoxy-8-methyl-3,4-dihydro-1H-quinolin-2-one | 10.0 g | COC1=C2CCC(NC2=C(C=C1)C)=O | C11H13NO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2N, 52 ml | ClCCl | CH2Cl2
product | 5-hydroxy-8-methyl-3,4-dihydro-1H-quinolin-2-one | 9.4 g, yield: quantitative | OC1=C2CCC(NC2=C(C=C1)C)=O | C10H11NO2
